US04101661
(d) 6-[4-[Bis(2-hydroxyethyl)aminosulfonyl]phenyl]-1,2-dihydro-1-methyl-2-oxonicotinic acid, 2,5-dioxo-1-pyrrolidinyl Ester
A solution of 4.43 g. of 6-[4-[bis(2-hydroxyethyl)aminosulfonyl]phenyl]-1,2-dihydro-1-methyl-2-oxonicotinic acid and 1.34 g. of N-hydroxysuccinimide in 60 ml. dimethylformamide was cooled in ice and treated dropwise with a solution of 2.56 g. of N,N'-dicyclohexylcarbodiimide in 5 ml. dimethylformamide. The solution was allowed to warm to room temperature over 16 hours. The mixture was cooled and the N,N'-dicyclohexylurea filtered off. Addition of 180 ml. of isopropanol to the filtrate precipitated the 6-[4-[bis(2-hydroxyethyl)aminosulfonyl]phenyl]-1,2-dihydro-1-methyl-2-oxonicotinic acid, 2,5-dioxo-1-pyrrolidinyl ester, which was collected by filtration.

reactant | 6-[4-[bis(2-hydroxyethyl)aminosulfonyl]phenyl]-1,2-dihydro-1-methyl-2-oxonicotinic acid | OCCN(S(=O)(=O)C1=CC=C(C=C1)C=1N(C(C(C(=O)O)=CC1)=O)C)CCO | C17H20N2O7S
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-[4-[Bis(2-hydroxyethyl)aminosulfonyl]phenyl]-1,2-dihydro-1-methyl-2-oxonicotinic acid, 2,5-dioxo-1-pyrrolidinyl Ester | OCCN(S(=O)(=O)C1=CC=C(C=C1)C=1N(C(C(C(=O)ON2C(CCC2=O)=O)=CC1)=O)C)CCO | C21H23N3O9S
